US08669234B2
Methyl chloroformate (15 μL, 0.19 mmol) was added to a solution of 3′-(2-methoxycarbonylamino-3-methyl-butyryl)-4-[4-(4-{2-[1-(2-methoxycarbonylamino-3-methyl-butyryl)-pyrrolidin-2-yl]-1-(2-trimethylsilanyl-ethoxymethyl)-1H-imidazol-4-yl}-phenylethynyl)-phenyl]-1-(2-trimethylsilanyl-ethoxymethyl)-2′,3′,4′,5′-tetrahydro-1H-[2,4′]biimidazole (97 mg, 0.09 mmol), and 4-methylmorpholine (40 μL, 0.36 mmol) in dichloromethane (3 mL). After 30 minutes the solvent was removed under reduced pressure and azeotroped with toluene. The residue was taken up in dichloromethane (5 mL) and trifluoroacetic acid (5 mL) was added. After 16 hours the volatiles were removed under reduced pressure and the residue was taken up in tetrahydrofuran (4 mL) and methanol (2 mL). An aqueous solution of sodium hydroxide (2 N, 1 mL) was added. After 30 min the organic solvents were removed under reduced pressure and the resulting precipitate was isolated by filtration. The solid was taken up in dimethylformamide (2 mL) and subjected to reverse phase chromatography with an eluent of 0.1% TFA in water and 0.1% TFA in acetonitrile. The product-containing fractions were combined and the solvent was removed by lyophilization to provide 3′-(2-methoxycarbonylamino-3-methyl-butyryl)-4-[4-(4-{2-[1-(2-methoxycarbonylamino-3-methyl-butyryl)-pyrrolidin-2-yl]-1H-imidazol-4-yl}-phenylethynyl)-phenyl]-2′,3′,4′,5′-tetrahydro-1H-[2,4]biimidazolyl-1′-carboxylic acid methyl ester (14.1 mg, 0.017 mmol, 10%).

reactant | Methyl chloroformate | 0.19 mmol, 15 μL | ClC(=O)OC | C2H3ClO2
reactant | 3′-(2-methoxycarbonylamino-3-methyl-butyryl)-4-[4-(4-{2-[1-(2-methoxycarbonylamino-3-methyl-butyryl)-pyrrolidin-2-yl]-1-(2-trimethylsilanyl-ethoxymethyl)-1H-imidazol-4-yl}-phenylethynyl)-phenyl]-1-(2-trimethylsilanyl-ethoxymethyl)-2′,3′,4′,5′-tetrahydro-1H-[2,4′]biimidazole | 0.09 mmol, 97 mg | COC(=O)NC(C(=O)N1CNCC1C=1N(C=C(N1)C1=CC=C(C=C1)C#CC1=CC=C(C=C1)C=1N=C(N(C1)COCC[Si](C)(C)C)C1N(CCC1)C(C(C(C)C)NC(=O)OC)=O)COCC[Si](C)(C)C)C(C)C | C53H77N9O8Si2
reactant | 4-methylmorpholine | 0.36 mmol, 40 μL | CN1CCOCC1 | C5H11NO
solvent | dichloromethane | 3 mL | ClCCl | CH2Cl2
solvent | dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
solvent | water | O | H2O
solvent | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | acetonitrile | C(C)#N | C2H3N
product | 3′-(2-methoxycarbonylamino-3-methyl-butyryl)-4-[4-(4-{2-[1-(2-methoxycarbonylamino-3-methyl-butyryl)-pyrrolidin-2-yl]-1H-imidazol-4-yl}-phenylethynyl)-phenyl]-2′,3′,4′,5′-tetrahydro-1H-[2,4]biimidazolyl-1′-carboxylic acid methyl ester | 0.017 mmol, 14.1 mg, 10% | COC(=O)N1CN(C(C1)C=1NC=C(N1)C1=CC=C(C=C1)C#CC1=CC=C(C=C1)C=1N=C(NC1)C1N(CCC1)C(C(C(C)C)NC(=O)OC)=O)C(C(C(C)C)NC(=O)OC)=O | C43H51N9O8
